US08202873B2
Dissolve 2-dimethylaminomethylene-3-oxo-butyric acid ethyl ester (0.550 g, 2.96 mmol), pyridin-4-yl-hydrazine hydrochloride (0.454 g, 3.12 mmol) and triethylamine (0.435 mL, 3.12 mmol) in ethanol (12 mL) and reflux for 2 hr. Evaporate the mixture then dilute with saturated sodium bicarbonate and extract 3 times with ethyl acetate. Dry (sodium sulfate) the solution, filter and concentrate. Purify using silica gel chromatography, eluting with 50:50 ethyl acetate:hexane to give 5-methyl-1-pyridin-4-yl-1H-pyrazole-4-carboxylic acid ethyl ester as a tan solid (0.520 g, 76%). MS (ES): m/z=232 [M+H]+.

reactant | 2-dimethylaminomethylene-3-oxo-butyric acid ethyl ester | 2.96 mmol, 0.550 g | C(C)OC(C(C(C)=O)=CN(C)C)=O | C9H15NO3
reactant | pyridin-4-yl-hydrazine hydrochloride | 3.12 mmol, 0.454 g | Cl.N1=CC=C(C=C1)NN
reactant | triethylamine | 3.12 mmol, 0.435 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | 5-methyl-1-pyridin-4-yl-1H-pyrazole-4-carboxylic acid ethyl ester | 0.520 g, 76% | C(C)OC(=O)C=1C=NN(C1C)C1=CC=NC=C1 | C12H13N3O2
